US04474700
The resulting solution, which contained sodium 3-azido-2-trifluoromethoxytrifluoropropionate, was stirred with 69.3 g (0.55 mole) of dimethyl sulfate for 3 hr. until an initial exothermic reaction subsided. Volatiles were removed at 50° (2 mm, 2.6×10-1 kPa), and the resulting crude ester was fractionated to yield 111.8 g (84%) of methyl 3-azido-2-trifluoromethoxytrifluoropropionate, bp 38°-41° (24 mm, 2.1 kPa). IR (CCl4): 3010, 2960, and 2850 (sat'd CH); 2150 (N3), 1780 (C=O), and 1100-1250 cm-1 (C--F). NMR (CCl4): 1H 3.89 ppm (s, OCH3); 19F -56.0 (d, JFF 8.6 Hz, 3F, OCF3) and -131.6 ppm (q of t, JFF 8.6, 5 Hz, 1F, CF) with an AB for CF2N3 at -8333 and -8521 Hz (d, JFF 5.0 Hz, 1F) and -8548 and -8763 Hz (d, JFF 5.6 Hz, 1F).

reactant | sodium 3-azido-2-trifluoromethoxytrifluoropropionate | N(=[N+]=[N-])C(C(C(=O)[O-])(OC(F)(F)F)F)(F)F.[Na+]
reactant | dimethyl sulfate | 0.55 mole, 69.3 g | S(=O)(=O)(OC)OC | C2H6O4S
product | methyl 3-azido-2-trifluoromethoxytrifluoropropionate | 111.8 g, 84% | N(=[N+]=[N-])C(C(C(=O)OC)(OC(F)(F)F)F)(F)F | C5H3F6N3O3
